US08309580B2
(8) 3-{[(4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoic acid
To a mixture of 4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}benzoic acid (300 mg) synthesized above, ethyl β-alaninate hydrochloride (136 mg), 1-hydroxybenzotriazole monohydrate (136 mg) and triethylamine (124 μL) in N,N-dimethylformamide (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (170 mg), and the mixture was stirred at room temperature for 2 hr. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane) to give colorless oil. To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 1 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (1 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (232 mg, 66%) as a white solid.

reactant | 4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}benzoic acid | 300 mg | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=CC=C1)C)NC1=CC=C(C(=O)O)C=C1 | C25H27NO2S
reactant | ethyl β-alaninate hydrochloride | 136 mg | Cl.NCCC(=O)OCC
reactant | 1-hydroxybenzotriazole monohydrate | 136 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 170 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 124 μL | C(C)N(CC)CC | C6H15N
product | 3-{[(4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}phenyl)carbonyl]amino}propanoic acid | 232 mg, 66% | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=CC=C1)C)NC1=CC=C(C=C1)C(=O)NCCC(=O)O | C28H32N2O3S
